US05760035
A mixture of 4-aminomethylpiperidine (7.0 g), benzaldehyde (5.77 g), toluene (70 ml) and a catalytic amount of p-toluenesulphonic acid was boiled under reflux for 7 hours with water removal using a Dean and Stark apparatus. The mixture was cooled to ambient temperature. 2-Bromoethyl phenyl ether (12.34 g) and triethylamine (8.5 ml) were added and the mixture was boiled under reflux for 5 hours. The mixture was evaporated to dryness and the residue dissolved in absolute ethanol (100 ml). Sodium borohydride (4.6 g) was added and the mixture was boiled under reflux for 18 hours. The mixture was evaporated to dryness and the residue partitioned between 2M hydrochloric acid and ethyl acetate. The aqueous layer was separated and basified with concentrated sodium hydroxide solution. This mixture was extracted with dichloromethane to give an oil which was dissolved in ether and treated with ethereal hydrogen chloride solution. A solid was collected by filtration and recrystallised from IMS to give 4-(N-benzylaminomethyl)-1-(2-phenoxyethyl)piperidine dihydrochloride, m.p. 246°-247° C.

reactant | 4-aminomethylpiperidine | 7.0 g | NCC1CCNCC1 | C6H14N2
reactant | benzaldehyde | 5.77 g | C(C1=CC=CC=C1)=O | C7H6O
reactant | p-toluenesulphonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | 2-Bromoethyl phenyl ether | 12.34 g | C1(=CC=CC=C1)OCCBr | C8H9BrO
reactant | hydrogen chloride | Cl | ClH
solvent | ether | CCOCC | C4H10O
solvent | triethylamine | 8.5 ml | C(C)N(CC)CC | C6H15N
solvent | water | O | H2O
solvent | toluene | 70 ml | C1(=CC=CC=C1)C | C7H8
product | 4-(N-benzylaminomethyl)-1-(2-phenoxyethyl)piperidine dihydrochloride | Cl.Cl.C(C1=CC=CC=C1)NCC1CCN(CC1)CCOC1=CC=CC=C1 | InChI=1S/C21H28N2O.2ClH/c1-3-7-19(8-4-1)17-22-18-20-11-13-23(14-12-20)15-16-24-21-9-5-2-6-10-21;;/h1-10,20,22H,11-18H2;2*1H
